US08431563B2
A 20-mL vial was charged with 1,1-diphenylmethanimine (0.44 g, 2.40 mmol), 2-(4-(4-((5-bromo-2-thiophenyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1-trifluoro-2-propanol (1.00 g, 2.003 mmol), sodium tert-butoxide (0.46 mL, 4.81 mmol), and 10 mL of toluene. To this was added tris(dibenzylideneacetone)dipalladium (0) (0.18 g, 0.20 mmol, Strem Chemicals, Newburyport, Mass.) and rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (BINAP) (0.31 g, 0.50 mmol, Sigma-Aldrich, St. Louis, Mo.). The vial was sealed and heated at 80° C. for 12 h. The mixture was then diluted with EtOAc (10 mL) and filtered. The filtrate was concentrated and the dissolved in 15 mL of THF. To this was added 5 M HCl (15.0 mL, 75 mmol). After stirring at room temperature for 30 min, the pH was adjusted to 12 by 5N NaOH. The mixture was extracted with EtOAc, dried with MgSO4, filtered, and concentrated. Purification via column chromatography on silica gel (0-70% EtOAc in hexanes) gave a white foam. To this was added 25 mL of ether and 25 mL of hexanes. The resulting suspension was stirred at room temperature for 5 min. The white solid was collected by filtration to give 2-(4-(4-((5-amino-2-thiophenyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1-trifluoro-2-propanol (0.42 g).

reactant | 1,1-diphenylmethanimine | 2.40 mmol, 0.44 g | C1(=CC=CC=C1)C(=N)C1=CC=CC=C1 | C13H11N
reactant | 2-(4-(4-((5-bromo-2-thiophenyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1-trifluoro-2-propanol | 2.003 mmol, 1.00 g | BrC1=CC=C(S1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C)O | C17H18BrF3N2O3S2
reactant | sodium tert-butoxide | 4.81 mmol, 0.46 mL | CC(C)([O-])C.[Na+]
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.50 mmol, 0.31 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | HCl | 75 mmol, 5 M, 15.0 mL | Cl | ClH
reactant | NaOH | 5N | [OH-].[Na+]
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.20 mmol, 0.18 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ether | 25 mL | CCOCC | C4H10O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-(4-((5-amino-2-thiophenyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1-trifluoro-2-propanol | 0.42 g | NC1=CC=C(S1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C)O | C17H20F3N3O3S2
